US05374637
A mixture of 1.4 parts of 2-chloro-3-pyridinecarbonitrile, 3.2 parts of cis-4-amino-N-[1-(4-aminobutyl)-3-methoxy-4-piperidinyl]-5-chloro-2,3-dihydro-7-benzofurancarboxamide, 65.8 parts of N,N-dimethylformamide and 1.3 parts of sodium carbonate was stirred for 20 hours at 70° C. The solvent was evaporated and the residue was dissolved in trichloromethane. The organic layer was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CHCl3 /CH3OH (NH3) 98:2). The eluent of the desired fraction was evaporated and the residue was crystallized from 2,2'-oxybispropane. The product was dried in vacuo at 60° C., yielding 1.44 parts (35.4%) of cis-4-amino-5-chloro-N-[1 -[4-[(3-cyano-2-pyridinyl)amino]butyl]-3-methoxy-4-piperidinyl]-2,3-dihydro-7-benzofurancarboxamide hemihydrate; mp. 129.7° C. (comp. 6).

reactant | 2-chloro-3-pyridinecarbonitrile | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | cis-4-amino-N-[1-(4-aminobutyl)-3-methoxy-4-piperidinyl]-5-chloro-2,3-dihydro-7-benzofurancarboxamide | NC1=C(C=C(C2=C1CCO2)C(=O)N[C@@H]2[C@@H](CN(CC2)CCCCN)OC)Cl | C19H29ClN4O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | cis-4-amino-5-chloro-N-[1 -[4-[(3-cyano-2-pyridinyl)amino]butyl]-3-methoxy-4-piperidinyl]-2,3-dihydro-7-benzofurancarboxamide hemihydrate | 35.4% | O.NC1=C(C=C(C2=C1CCO2)C(=O)N[C@@H]2[C@@H](CN(CC2)CCCCNC2=NC=CC=C2C#N)OC)Cl.NC2=C(C=C(C1=C2CCO1)C(=O)N[C@@H]1[C@@H](CN(CC1)CCCCNC1=NC=CC=C1C#N)OC)Cl | InChI=1S/2C25H31ClN6O3.H2O/c2*1-34-21-15-32(10-3-2-8-29-24-16(14-27)5-4-9-30-24)11-6-20(21)31-25(33)18-13-19(26)22(28)17-7-12-35-23(17)18;/h2*4-5,9,13,20-21H,2-3,6-8,10-12,15,28H2,1H3,(H,29,30)(H,31,33);1H2/t2*20-,21+;/m00./s1
